*-- pdngen: spice deck generated for chip 'chiplet2' PDN
*-- die chiplet2:  W/H: 0.004/0.002
*-- die chiplet2:  metal layers: 2


.subckt chiplet2
+ns_pad_port_0_0
+nd_pad_port_0_1
+ns_pad_port_0_2
+nd_pad_port_0_3
+nd_pad_port_1_0
+ns_pad_port_1_1
+nd_pad_port_1_2
+ns_pad_port_1_3
+ns_pad_port_2_0
+nd_pad_port_2_1
+ns_pad_port_2_2
+nd_pad_port_2_3
+nd_pad_port_3_0
+ns_pad_port_3_1
+nd_pad_port_3_2
+ns_pad_port_3_3
+ns_pad_port_4_0
+nd_pad_port_4_1
+ns_pad_port_4_2
+nd_pad_port_4_3
+nd_pad_port_5_0
+ns_pad_port_5_1
+nd_pad_port_5_2
+ns_pad_port_5_3
+ns_pad_port_6_0
+nd_pad_port_6_1
+ns_pad_port_6_2
+nd_pad_port_6_3
+nd_pad_port_7_0
+ns_pad_port_7_1
+nd_pad_port_7_2
+ns_pad_port_7_3
*-- p/g port #: 16/16
+nd_1_0_3500_3000

*-- layer 1: net: 0 [X] VDD net from layer 1-2
rd_1_2_0_0_0 nd_1_0_500_1000 nd_1_0_1500_1000 0.016324
rd_1_2_0_0_1 nd_1_0_1500_1000 nd_1_0_2500_1000 0.016324
rd_1_2_0_0_2 nd_1_0_2500_1000 nd_1_0_3500_1000 0.016324
rd_1_2_0_0_3 nd_1_0_3500_1000 nd_1_0_4500_1000 0.016324
rd_1_2_0_0_4 nd_1_0_4500_1000 nd_1_0_5500_1000 0.016324
rd_1_2_0_0_5 nd_1_0_5500_1000 nd_1_0_6500_1000 0.016324
rd_1_2_0_0_6 nd_1_0_6500_1000 nd_1_0_7500_1000 0.016324
rd_1_2_0_0_7 nd_1_0_7500_1000 nd_1_0_8500_1000 0.016324
rd_1_2_0_0_8 nd_1_0_8500_1000 nd_1_0_9500_1000 0.016324
rd_1_2_0_1_0 nd_1_0_500_3000 nd_1_0_1500_3000 0.016324
rd_1_2_0_1_1 nd_1_0_1500_3000 nd_1_0_2500_3000 0.016324
rd_1_2_0_1_2 nd_1_0_2500_3000 nd_1_0_3500_3000 0.016324
rd_1_2_0_1_3 nd_1_0_3500_3000 nd_1_0_4500_3000 0.016324
rd_1_2_0_1_4 nd_1_0_4500_3000 nd_1_0_5500_3000 0.016324
rd_1_2_0_1_5 nd_1_0_5500_3000 nd_1_0_6500_3000 0.016324
rd_1_2_0_1_6 nd_1_0_6500_3000 nd_1_0_7500_3000 0.016324
rd_1_2_0_1_7 nd_1_0_7500_3000 nd_1_0_8500_3000 0.016324
rd_1_2_0_1_8 nd_1_0_8500_3000 nd_1_0_9500_3000 0.016324
rd_1_2_0_2_0 nd_1_0_500_5000 nd_1_0_1500_5000 0.016324
rd_1_2_0_2_1 nd_1_0_1500_5000 nd_1_0_2500_5000 0.016324
rd_1_2_0_2_2 nd_1_0_2500_5000 nd_1_0_3500_5000 0.016324
rd_1_2_0_2_3 nd_1_0_3500_5000 nd_1_0_4500_5000 0.016324
rd_1_2_0_2_4 nd_1_0_4500_5000 nd_1_0_5500_5000 0.016324
rd_1_2_0_2_5 nd_1_0_5500_5000 nd_1_0_6500_5000 0.016324
rd_1_2_0_2_6 nd_1_0_6500_5000 nd_1_0_7500_5000 0.016324
rd_1_2_0_2_7 nd_1_0_7500_5000 nd_1_0_8500_5000 0.016324
rd_1_2_0_2_8 nd_1_0_8500_5000 nd_1_0_9500_5000 0.016324
rd_1_2_0_3_0 nd_1_0_500_7000 nd_1_0_1500_7000 0.016324
rd_1_2_0_3_1 nd_1_0_1500_7000 nd_1_0_2500_7000 0.016324
rd_1_2_0_3_2 nd_1_0_2500_7000 nd_1_0_3500_7000 0.016324
rd_1_2_0_3_3 nd_1_0_3500_7000 nd_1_0_4500_7000 0.016324
rd_1_2_0_3_4 nd_1_0_4500_7000 nd_1_0_5500_7000 0.016324
rd_1_2_0_3_5 nd_1_0_5500_7000 nd_1_0_6500_7000 0.016324
rd_1_2_0_3_6 nd_1_0_6500_7000 nd_1_0_7500_7000 0.016324
rd_1_2_0_3_7 nd_1_0_7500_7000 nd_1_0_8500_7000 0.016324
rd_1_2_0_3_8 nd_1_0_8500_7000 nd_1_0_9500_7000 0.016324
rd_1_2_0_4_0 nd_1_0_500_9000 nd_1_0_1500_9000 0.016324
rd_1_2_0_4_1 nd_1_0_1500_9000 nd_1_0_2500_9000 0.016324
rd_1_2_0_4_2 nd_1_0_2500_9000 nd_1_0_3500_9000 0.016324
rd_1_2_0_4_3 nd_1_0_3500_9000 nd_1_0_4500_9000 0.016324
rd_1_2_0_4_4 nd_1_0_4500_9000 nd_1_0_5500_9000 0.016324
rd_1_2_0_4_5 nd_1_0_5500_9000 nd_1_0_6500_9000 0.016324
rd_1_2_0_4_6 nd_1_0_6500_9000 nd_1_0_7500_9000 0.016324
rd_1_2_0_4_7 nd_1_0_7500_9000 nd_1_0_8500_9000 0.016324
rd_1_2_0_4_8 nd_1_0_8500_9000 nd_1_0_9500_9000 0.016324
*-- layer 1: net: 0 [X] VSS net from layer 1-2
rs_1_2_0_0_0 ns_1_0_0_0 ns_1_0_1000_0 0.016324
rs_1_2_0_0_1 ns_1_0_1000_0 ns_1_0_2000_0 0.016324
rs_1_2_0_0_2 ns_1_0_2000_0 ns_1_0_3000_0 0.016324
rs_1_2_0_0_3 ns_1_0_3000_0 ns_1_0_4000_0 0.016324
rs_1_2_0_0_4 ns_1_0_4000_0 ns_1_0_5000_0 0.016324
rs_1_2_0_0_5 ns_1_0_5000_0 ns_1_0_6000_0 0.016324
rs_1_2_0_0_6 ns_1_0_6000_0 ns_1_0_7000_0 0.016324
rs_1_2_0_0_7 ns_1_0_7000_0 ns_1_0_8000_0 0.016324
rs_1_2_0_0_8 ns_1_0_8000_0 ns_1_0_9000_0 0.016324
rs_1_2_0_1_0 ns_1_0_0_2000 ns_1_0_1000_2000 0.016324
rs_1_2_0_1_1 ns_1_0_1000_2000 ns_1_0_2000_2000 0.016324
rs_1_2_0_1_2 ns_1_0_2000_2000 ns_1_0_3000_2000 0.016324
rs_1_2_0_1_3 ns_1_0_3000_2000 ns_1_0_4000_2000 0.016324
rs_1_2_0_1_4 ns_1_0_4000_2000 ns_1_0_5000_2000 0.016324
rs_1_2_0_1_5 ns_1_0_5000_2000 ns_1_0_6000_2000 0.016324
rs_1_2_0_1_6 ns_1_0_6000_2000 ns_1_0_7000_2000 0.016324
rs_1_2_0_1_7 ns_1_0_7000_2000 ns_1_0_8000_2000 0.016324
rs_1_2_0_1_8 ns_1_0_8000_2000 ns_1_0_9000_2000 0.016324
rs_1_2_0_2_0 ns_1_0_0_4000 ns_1_0_1000_4000 0.016324
rs_1_2_0_2_1 ns_1_0_1000_4000 ns_1_0_2000_4000 0.016324
rs_1_2_0_2_2 ns_1_0_2000_4000 ns_1_0_3000_4000 0.016324
rs_1_2_0_2_3 ns_1_0_3000_4000 ns_1_0_4000_4000 0.016324
rs_1_2_0_2_4 ns_1_0_4000_4000 ns_1_0_5000_4000 0.016324
rs_1_2_0_2_5 ns_1_0_5000_4000 ns_1_0_6000_4000 0.016324
rs_1_2_0_2_6 ns_1_0_6000_4000 ns_1_0_7000_4000 0.016324
rs_1_2_0_2_7 ns_1_0_7000_4000 ns_1_0_8000_4000 0.016324
rs_1_2_0_2_8 ns_1_0_8000_4000 ns_1_0_9000_4000 0.016324
rs_1_2_0_3_0 ns_1_0_0_6000 ns_1_0_1000_6000 0.016324
rs_1_2_0_3_1 ns_1_0_1000_6000 ns_1_0_2000_6000 0.016324
rs_1_2_0_3_2 ns_1_0_2000_6000 ns_1_0_3000_6000 0.016324
rs_1_2_0_3_3 ns_1_0_3000_6000 ns_1_0_4000_6000 0.016324
rs_1_2_0_3_4 ns_1_0_4000_6000 ns_1_0_5000_6000 0.016324
rs_1_2_0_3_5 ns_1_0_5000_6000 ns_1_0_6000_6000 0.016324
rs_1_2_0_3_6 ns_1_0_6000_6000 ns_1_0_7000_6000 0.016324
rs_1_2_0_3_7 ns_1_0_7000_6000 ns_1_0_8000_6000 0.016324
rs_1_2_0_3_8 ns_1_0_8000_6000 ns_1_0_9000_6000 0.016324
rs_1_2_0_4_0 ns_1_0_0_8000 ns_1_0_1000_8000 0.016324
rs_1_2_0_4_1 ns_1_0_1000_8000 ns_1_0_2000_8000 0.016324
rs_1_2_0_4_2 ns_1_0_2000_8000 ns_1_0_3000_8000 0.016324
rs_1_2_0_4_3 ns_1_0_3000_8000 ns_1_0_4000_8000 0.016324
rs_1_2_0_4_4 ns_1_0_4000_8000 ns_1_0_5000_8000 0.016324
rs_1_2_0_4_5 ns_1_0_5000_8000 ns_1_0_6000_8000 0.016324
rs_1_2_0_4_6 ns_1_0_6000_8000 ns_1_0_7000_8000 0.016324
rs_1_2_0_4_7 ns_1_0_7000_8000 ns_1_0_8000_8000 0.016324
rs_1_2_0_4_8 ns_1_0_8000_8000 ns_1_0_9000_8000 0.016324
*-- layer 2: net: 0 [Y] VDD net from layer 2-1
rd_2_1_0_0_0 nd_2_0_500_1000 nd_2_0_500_3000 0.016324
rd_2_1_0_0_1 nd_2_0_500_3000 nd_2_0_500_5000 0.016324
rd_2_1_0_0_2 nd_2_0_500_5000 nd_2_0_500_7000 0.016324
rd_2_1_0_0_3 nd_2_0_500_7000 nd_2_0_500_9000 0.016324
rd_2_1_0_1_0 nd_2_0_1500_1000 nd_2_0_1500_3000 0.016324
rd_2_1_0_1_1 nd_2_0_1500_3000 nd_2_0_1500_5000 0.016324
rd_2_1_0_1_2 nd_2_0_1500_5000 nd_2_0_1500_7000 0.016324
rd_2_1_0_1_3 nd_2_0_1500_7000 nd_2_0_1500_9000 0.016324
rd_2_1_0_2_0 nd_2_0_2500_1000 nd_2_0_2500_3000 0.016324
rd_2_1_0_2_1 nd_2_0_2500_3000 nd_2_0_2500_5000 0.016324
rd_2_1_0_2_2 nd_2_0_2500_5000 nd_2_0_2500_7000 0.016324
rd_2_1_0_2_3 nd_2_0_2500_7000 nd_2_0_2500_9000 0.016324
rd_2_1_0_3_0 nd_2_0_3500_1000 nd_2_0_3500_3000 0.016324
rd_2_1_0_3_1 nd_2_0_3500_3000 nd_2_0_3500_5000 0.016324
rd_2_1_0_3_2 nd_2_0_3500_5000 nd_2_0_3500_7000 0.016324
rd_2_1_0_3_3 nd_2_0_3500_7000 nd_2_0_3500_9000 0.016324
rd_2_1_0_4_0 nd_2_0_4500_1000 nd_2_0_4500_3000 0.016324
rd_2_1_0_4_1 nd_2_0_4500_3000 nd_2_0_4500_5000 0.016324
rd_2_1_0_4_2 nd_2_0_4500_5000 nd_2_0_4500_7000 0.016324
rd_2_1_0_4_3 nd_2_0_4500_7000 nd_2_0_4500_9000 0.016324
rd_2_1_0_5_0 nd_2_0_5500_1000 nd_2_0_5500_3000 0.016324
rd_2_1_0_5_1 nd_2_0_5500_3000 nd_2_0_5500_5000 0.016324
rd_2_1_0_5_2 nd_2_0_5500_5000 nd_2_0_5500_7000 0.016324
rd_2_1_0_5_3 nd_2_0_5500_7000 nd_2_0_5500_9000 0.016324
rd_2_1_0_6_0 nd_2_0_6500_1000 nd_2_0_6500_3000 0.016324
rd_2_1_0_6_1 nd_2_0_6500_3000 nd_2_0_6500_5000 0.016324
rd_2_1_0_6_2 nd_2_0_6500_5000 nd_2_0_6500_7000 0.016324
rd_2_1_0_6_3 nd_2_0_6500_7000 nd_2_0_6500_9000 0.016324
rd_2_1_0_7_0 nd_2_0_7500_1000 nd_2_0_7500_3000 0.016324
rd_2_1_0_7_1 nd_2_0_7500_3000 nd_2_0_7500_5000 0.016324
rd_2_1_0_7_2 nd_2_0_7500_5000 nd_2_0_7500_7000 0.016324
rd_2_1_0_7_3 nd_2_0_7500_7000 nd_2_0_7500_9000 0.016324
rd_2_1_0_8_0 nd_2_0_8500_1000 nd_2_0_8500_3000 0.016324
rd_2_1_0_8_1 nd_2_0_8500_3000 nd_2_0_8500_5000 0.016324
rd_2_1_0_8_2 nd_2_0_8500_5000 nd_2_0_8500_7000 0.016324
rd_2_1_0_8_3 nd_2_0_8500_7000 nd_2_0_8500_9000 0.016324
rd_2_1_0_9_0 nd_2_0_9500_1000 nd_2_0_9500_3000 0.016324
rd_2_1_0_9_1 nd_2_0_9500_3000 nd_2_0_9500_5000 0.016324
rd_2_1_0_9_2 nd_2_0_9500_5000 nd_2_0_9500_7000 0.016324
rd_2_1_0_9_3 nd_2_0_9500_7000 nd_2_0_9500_9000 0.016324
*-- layer 2: net: 0 [Y] VSS net from layer 2-1
rs_2_1_0_0_0 ns_2_0_0_0 ns_2_0_0_2000 0.016324
rs_2_1_0_0_1 ns_2_0_0_2000 ns_2_0_0_4000 0.016324
rs_2_1_0_0_2 ns_2_0_0_4000 ns_2_0_0_6000 0.016324
rs_2_1_0_0_3 ns_2_0_0_6000 ns_2_0_0_8000 0.016324
rs_2_1_0_1_0 ns_2_0_1000_0 ns_2_0_1000_2000 0.016324
rs_2_1_0_1_1 ns_2_0_1000_2000 ns_2_0_1000_4000 0.016324
rs_2_1_0_1_2 ns_2_0_1000_4000 ns_2_0_1000_6000 0.016324
rs_2_1_0_1_3 ns_2_0_1000_6000 ns_2_0_1000_8000 0.016324
rs_2_1_0_2_0 ns_2_0_2000_0 ns_2_0_2000_2000 0.016324
rs_2_1_0_2_1 ns_2_0_2000_2000 ns_2_0_2000_4000 0.016324
rs_2_1_0_2_2 ns_2_0_2000_4000 ns_2_0_2000_6000 0.016324
rs_2_1_0_2_3 ns_2_0_2000_6000 ns_2_0_2000_8000 0.016324
rs_2_1_0_3_0 ns_2_0_3000_0 ns_2_0_3000_2000 0.016324
rs_2_1_0_3_1 ns_2_0_3000_2000 ns_2_0_3000_4000 0.016324
rs_2_1_0_3_2 ns_2_0_3000_4000 ns_2_0_3000_6000 0.016324
rs_2_1_0_3_3 ns_2_0_3000_6000 ns_2_0_3000_8000 0.016324
rs_2_1_0_4_0 ns_2_0_4000_0 ns_2_0_4000_2000 0.016324
rs_2_1_0_4_1 ns_2_0_4000_2000 ns_2_0_4000_4000 0.016324
rs_2_1_0_4_2 ns_2_0_4000_4000 ns_2_0_4000_6000 0.016324
rs_2_1_0_4_3 ns_2_0_4000_6000 ns_2_0_4000_8000 0.016324
rs_2_1_0_5_0 ns_2_0_5000_0 ns_2_0_5000_2000 0.016324
rs_2_1_0_5_1 ns_2_0_5000_2000 ns_2_0_5000_4000 0.016324
rs_2_1_0_5_2 ns_2_0_5000_4000 ns_2_0_5000_6000 0.016324
rs_2_1_0_5_3 ns_2_0_5000_6000 ns_2_0_5000_8000 0.016324
rs_2_1_0_6_0 ns_2_0_6000_0 ns_2_0_6000_2000 0.016324
rs_2_1_0_6_1 ns_2_0_6000_2000 ns_2_0_6000_4000 0.016324
rs_2_1_0_6_2 ns_2_0_6000_4000 ns_2_0_6000_6000 0.016324
rs_2_1_0_6_3 ns_2_0_6000_6000 ns_2_0_6000_8000 0.016324
rs_2_1_0_7_0 ns_2_0_7000_0 ns_2_0_7000_2000 0.016324
rs_2_1_0_7_1 ns_2_0_7000_2000 ns_2_0_7000_4000 0.016324
rs_2_1_0_7_2 ns_2_0_7000_4000 ns_2_0_7000_6000 0.016324
rs_2_1_0_7_3 ns_2_0_7000_6000 ns_2_0_7000_8000 0.016324
rs_2_1_0_8_0 ns_2_0_8000_0 ns_2_0_8000_2000 0.016324
rs_2_1_0_8_1 ns_2_0_8000_2000 ns_2_0_8000_4000 0.016324
rs_2_1_0_8_2 ns_2_0_8000_4000 ns_2_0_8000_6000 0.016324
rs_2_1_0_8_3 ns_2_0_8000_6000 ns_2_0_8000_8000 0.016324
rs_2_1_0_9_0 ns_2_0_9000_0 ns_2_0_9000_2000 0.016324
rs_2_1_0_9_1 ns_2_0_9000_2000 ns_2_0_9000_4000 0.016324
rs_2_1_0_9_2 ns_2_0_9000_4000 ns_2_0_9000_6000 0.016324
rs_2_1_0_9_3 ns_2_0_9000_6000 ns_2_0_9000_8000 0.016324
*-- via layer 1-2: net: 0 VDD net
rvd_1_0_0_0 nd_1_0_500_1000 nd_2_0_500_1000 0.005
rvd_1_0_0_1 nd_1_0_1500_1000 nd_2_0_1500_1000 0.005
rvd_1_0_0_2 nd_1_0_2500_1000 nd_2_0_2500_1000 0.005
rvd_1_0_0_3 nd_1_0_3500_1000 nd_2_0_3500_1000 0.005
rvd_1_0_0_4 nd_1_0_4500_1000 nd_2_0_4500_1000 0.005
rvd_1_0_0_5 nd_1_0_5500_1000 nd_2_0_5500_1000 0.005
rvd_1_0_0_6 nd_1_0_6500_1000 nd_2_0_6500_1000 0.005
rvd_1_0_0_7 nd_1_0_7500_1000 nd_2_0_7500_1000 0.005
rvd_1_0_0_8 nd_1_0_8500_1000 nd_2_0_8500_1000 0.005
rvd_1_0_0_9 nd_1_0_9500_1000 nd_2_0_9500_1000 0.005
rvd_1_0_1_0 nd_1_0_500_3000 nd_2_0_500_3000 0.005
rvd_1_0_1_1 nd_1_0_1500_3000 nd_2_0_1500_3000 0.005
rvd_1_0_1_2 nd_1_0_2500_3000 nd_2_0_2500_3000 0.005
rvd_1_0_1_3 nd_1_0_3500_3000 nd_2_0_3500_3000 0.005
rvd_1_0_1_4 nd_1_0_4500_3000 nd_2_0_4500_3000 0.005
rvd_1_0_1_5 nd_1_0_5500_3000 nd_2_0_5500_3000 0.005
rvd_1_0_1_6 nd_1_0_6500_3000 nd_2_0_6500_3000 0.005
rvd_1_0_1_7 nd_1_0_7500_3000 nd_2_0_7500_3000 0.005
rvd_1_0_1_8 nd_1_0_8500_3000 nd_2_0_8500_3000 0.005
rvd_1_0_1_9 nd_1_0_9500_3000 nd_2_0_9500_3000 0.005
rvd_1_0_2_0 nd_1_0_500_5000 nd_2_0_500_5000 0.005
rvd_1_0_2_1 nd_1_0_1500_5000 nd_2_0_1500_5000 0.005
rvd_1_0_2_2 nd_1_0_2500_5000 nd_2_0_2500_5000 0.005
rvd_1_0_2_3 nd_1_0_3500_5000 nd_2_0_3500_5000 0.005
rvd_1_0_2_4 nd_1_0_4500_5000 nd_2_0_4500_5000 0.005
rvd_1_0_2_5 nd_1_0_5500_5000 nd_2_0_5500_5000 0.005
rvd_1_0_2_6 nd_1_0_6500_5000 nd_2_0_6500_5000 0.005
rvd_1_0_2_7 nd_1_0_7500_5000 nd_2_0_7500_5000 0.005
rvd_1_0_2_8 nd_1_0_8500_5000 nd_2_0_8500_5000 0.005
rvd_1_0_2_9 nd_1_0_9500_5000 nd_2_0_9500_5000 0.005
rvd_1_0_3_0 nd_1_0_500_7000 nd_2_0_500_7000 0.005
rvd_1_0_3_1 nd_1_0_1500_7000 nd_2_0_1500_7000 0.005
rvd_1_0_3_2 nd_1_0_2500_7000 nd_2_0_2500_7000 0.005
rvd_1_0_3_3 nd_1_0_3500_7000 nd_2_0_3500_7000 0.005
rvd_1_0_3_4 nd_1_0_4500_7000 nd_2_0_4500_7000 0.005
rvd_1_0_3_5 nd_1_0_5500_7000 nd_2_0_5500_7000 0.005
rvd_1_0_3_6 nd_1_0_6500_7000 nd_2_0_6500_7000 0.005
rvd_1_0_3_7 nd_1_0_7500_7000 nd_2_0_7500_7000 0.005
rvd_1_0_3_8 nd_1_0_8500_7000 nd_2_0_8500_7000 0.005
rvd_1_0_3_9 nd_1_0_9500_7000 nd_2_0_9500_7000 0.005
rvd_1_0_4_0 nd_1_0_500_9000 nd_2_0_500_9000 0.005
rvd_1_0_4_1 nd_1_0_1500_9000 nd_2_0_1500_9000 0.005
rvd_1_0_4_2 nd_1_0_2500_9000 nd_2_0_2500_9000 0.005
rvd_1_0_4_3 nd_1_0_3500_9000 nd_2_0_3500_9000 0.005
rvd_1_0_4_4 nd_1_0_4500_9000 nd_2_0_4500_9000 0.005
rvd_1_0_4_5 nd_1_0_5500_9000 nd_2_0_5500_9000 0.005
rvd_1_0_4_6 nd_1_0_6500_9000 nd_2_0_6500_9000 0.005
rvd_1_0_4_7 nd_1_0_7500_9000 nd_2_0_7500_9000 0.005
rvd_1_0_4_8 nd_1_0_8500_9000 nd_2_0_8500_9000 0.005
rvd_1_0_4_9 nd_1_0_9500_9000 nd_2_0_9500_9000 0.005
*-- via layer 1-2: net: 0 VSS net
rvs_1_0_0_0 ns_1_0_0_0 ns_2_0_0_0 0.005
rvs_1_0_0_1 ns_1_0_1000_0 ns_2_0_1000_0 0.005
rvs_1_0_0_2 ns_1_0_2000_0 ns_2_0_2000_0 0.005
rvs_1_0_0_3 ns_1_0_3000_0 ns_2_0_3000_0 0.005
rvs_1_0_0_4 ns_1_0_4000_0 ns_2_0_4000_0 0.005
rvs_1_0_0_5 ns_1_0_5000_0 ns_2_0_5000_0 0.005
rvs_1_0_0_6 ns_1_0_6000_0 ns_2_0_6000_0 0.005
rvs_1_0_0_7 ns_1_0_7000_0 ns_2_0_7000_0 0.005
rvs_1_0_0_8 ns_1_0_8000_0 ns_2_0_8000_0 0.005
rvs_1_0_0_9 ns_1_0_9000_0 ns_2_0_9000_0 0.005
rvs_1_0_1_0 ns_1_0_0_2000 ns_2_0_0_2000 0.005
rvs_1_0_1_1 ns_1_0_1000_2000 ns_2_0_1000_2000 0.005
rvs_1_0_1_2 ns_1_0_2000_2000 ns_2_0_2000_2000 0.005
rvs_1_0_1_3 ns_1_0_3000_2000 ns_2_0_3000_2000 0.005
rvs_1_0_1_4 ns_1_0_4000_2000 ns_2_0_4000_2000 0.005
rvs_1_0_1_5 ns_1_0_5000_2000 ns_2_0_5000_2000 0.005
rvs_1_0_1_6 ns_1_0_6000_2000 ns_2_0_6000_2000 0.005
rvs_1_0_1_7 ns_1_0_7000_2000 ns_2_0_7000_2000 0.005
rvs_1_0_1_8 ns_1_0_8000_2000 ns_2_0_8000_2000 0.005
rvs_1_0_1_9 ns_1_0_9000_2000 ns_2_0_9000_2000 0.005
rvs_1_0_2_0 ns_1_0_0_4000 ns_2_0_0_4000 0.005
rvs_1_0_2_1 ns_1_0_1000_4000 ns_2_0_1000_4000 0.005
rvs_1_0_2_2 ns_1_0_2000_4000 ns_2_0_2000_4000 0.005
rvs_1_0_2_3 ns_1_0_3000_4000 ns_2_0_3000_4000 0.005
rvs_1_0_2_4 ns_1_0_4000_4000 ns_2_0_4000_4000 0.005
rvs_1_0_2_5 ns_1_0_5000_4000 ns_2_0_5000_4000 0.005
rvs_1_0_2_6 ns_1_0_6000_4000 ns_2_0_6000_4000 0.005
rvs_1_0_2_7 ns_1_0_7000_4000 ns_2_0_7000_4000 0.005
rvs_1_0_2_8 ns_1_0_8000_4000 ns_2_0_8000_4000 0.005
rvs_1_0_2_9 ns_1_0_9000_4000 ns_2_0_9000_4000 0.005
rvs_1_0_3_0 ns_1_0_0_6000 ns_2_0_0_6000 0.005
rvs_1_0_3_1 ns_1_0_1000_6000 ns_2_0_1000_6000 0.005
rvs_1_0_3_2 ns_1_0_2000_6000 ns_2_0_2000_6000 0.005
rvs_1_0_3_3 ns_1_0_3000_6000 ns_2_0_3000_6000 0.005
rvs_1_0_3_4 ns_1_0_4000_6000 ns_2_0_4000_6000 0.005
rvs_1_0_3_5 ns_1_0_5000_6000 ns_2_0_5000_6000 0.005
rvs_1_0_3_6 ns_1_0_6000_6000 ns_2_0_6000_6000 0.005
rvs_1_0_3_7 ns_1_0_7000_6000 ns_2_0_7000_6000 0.005
rvs_1_0_3_8 ns_1_0_8000_6000 ns_2_0_8000_6000 0.005
rvs_1_0_3_9 ns_1_0_9000_6000 ns_2_0_9000_6000 0.005
rvs_1_0_4_0 ns_1_0_0_8000 ns_2_0_0_8000 0.005
rvs_1_0_4_1 ns_1_0_1000_8000 ns_2_0_1000_8000 0.005
rvs_1_0_4_2 ns_1_0_2000_8000 ns_2_0_2000_8000 0.005
rvs_1_0_4_3 ns_1_0_3000_8000 ns_2_0_3000_8000 0.005
rvs_1_0_4_4 ns_1_0_4000_8000 ns_2_0_4000_8000 0.005
rvs_1_0_4_5 ns_1_0_5000_8000 ns_2_0_5000_8000 0.005
rvs_1_0_4_6 ns_1_0_6000_8000 ns_2_0_6000_8000 0.005
rvs_1_0_4_7 ns_1_0_7000_8000 ns_2_0_7000_8000 0.005
rvs_1_0_4_8 ns_1_0_8000_8000 ns_2_0_8000_8000 0.005
rvs_1_0_4_9 ns_1_0_9000_8000 ns_2_0_9000_8000 0.005
id_0_0_0_0 nd_1_0_500_1000 0 0.0130041
id_0_0_0_1 nd_1_0_1500_1000 0 0.00977516
id_0_0_0_2 nd_1_0_2500_1000 0 0.00674993
id_0_0_0_3 nd_1_0_3500_1000 0 0.0115144
id_0_0_0_4 nd_1_0_4500_1000 0 0.00834233
id_0_0_0_5 nd_1_0_5500_1000 0 0.0162772
id_0_0_0_6 nd_1_0_6500_1000 0 0.00212277
id_0_0_0_7 nd_1_0_7500_1000 0 0.0178709
id_0_0_0_8 nd_1_0_8500_1000 0 0.01483
id_0_0_0_9 nd_1_0_9500_1000 0 0.000697182
id_0_0_0_10 nd_1_0_500_3000 0 0.00855177
id_0_0_0_11 nd_1_0_1500_3000 0 0.00234319
id_0_0_0_12 nd_1_0_2500_3000 0 0.0211406
id_0_0_0_13 nd_1_0_3500_3000 0 0.00714231
id_0_0_0_14 nd_1_0_4500_3000 0 0.000851549
id_0_0_0_15 nd_1_0_5500_3000 0 0.0197745
id_0_0_0_16 nd_1_0_6500_3000 0 0.016609
id_0_0_0_17 nd_1_0_7500_3000 0 0.013437
id_0_0_0_18 nd_1_0_8500_3000 0 0.00727518
id_0_0_0_19 nd_1_0_9500_3000 0 0.00422239
id_0_0_0_20 nd_1_0_500_5000 0 0.00103162
id_0_0_0_21 nd_1_0_1500_5000 0 0.00890004
id_0_0_0_22 nd_1_0_2500_5000 0 0.0137164
id_0_0_0_23 nd_1_0_3500_5000 0 0.0216061
id_0_0_0_24 nd_1_0_4500_5000 0 0.00743962
id_0_0_0_25 nd_1_0_5500_5000 0 0.0153761
id_0_0_0_26 nd_1_0_6500_5000 0 0.0201196
id_0_0_0_27 nd_1_0_7500_5000 0 0.0169675
id_0_0_0_28 nd_1_0_8500_5000 0 0.00296935
id_0_0_0_29 nd_1_0_9500_5000 0 0.0108175
id_0_0_0_30 nd_1_0_500_7000 0 0.0155213
id_0_0_0_31 nd_1_0_1500_7000 0 0.0124194
id_0_0_0_32 nd_1_0_2500_7000 0 0.00930982
id_0_0_0_33 nd_1_0_3500_7000 0 0.0172638
id_0_0_0_34 nd_1_0_4500_7000 0 0.0109367
id_0_0_0_35 nd_1_0_5500_7000 0 0.0188513
id_0_0_0_36 nd_1_0_6500_7000 0 0.0047052
id_0_0_0_37 nd_1_0_7500_7000 0 0.0125749
id_0_0_0_38 nd_1_0_8500_7000 0 0.00637764
id_0_0_0_39 nd_1_0_9500_7000 0 0.0143064
id_0_0_0_40 nd_1_0_500_9000 0 0.0111987
id_0_0_0_41 nd_1_0_1500_9000 0 0.0159875
id_0_0_0_42 nd_1_0_2500_9000 0 0.00187998
id_0_0_0_43 nd_1_0_3500_9000 0 0.0206405
id_0_0_0_44 nd_1_0_4500_9000 0 0.00665037
id_0_0_0_45 nd_1_0_5500_9000 0 0.0114183
id_0_0_0_46 nd_1_0_6500_9000 0 0.0191873
id_0_0_0_47 nd_1_0_7500_9000 0 0.00514818
id_0_0_0_48 nd_1_0_8500_9000 0 0.0129773
id_0_0_0_49 nd_1_0_9500_9000 0 0.00672564
is_0_0_0_0 0 ns_1_0_0_0 0.0101765
is_0_0_0_1 0 ns_1_0_1000_0 0.00401789
is_0_0_0_2 0 ns_1_0_2000_0 0.0118425
is_0_0_0_3 0 ns_1_0_3000_0 0.0196308
is_0_0_0_4 0 ns_1_0_4000_0 0.00260057
is_0_0_0_5 0 ns_1_0_5000_0 0.0103679
is_0_0_0_6 0 ns_1_0_6000_0 0.0073126
is_0_0_0_7 0 ns_1_0_7000_0 0.0149917
is_0_0_0_8 0 ns_1_0_8000_0 0.0197434
is_0_0_0_9 0 ns_1_0_9000_0 0.016731
is_0_0_0_10 0 ns_1_0_0_2000 0.00273898
is_0_0_0_11 0 ns_1_0_1000_2000 0.0213213
is_0_0_0_12 0 ns_1_0_2000_2000 0.0152674
is_0_0_0_13 0 ns_1_0_3000_2000 0.0121494
is_0_0_0_14 0 ns_1_0_4000_2000 0.0199262
is_0_0_0_15 0 ns_1_0_5000_2000 0.0169192
is_0_0_0_16 0 ns_1_0_6000_2000 0.0215487
is_0_0_0_17 0 ns_1_0_7000_2000 0.0185102
is_0_0_0_18 0 ns_1_0_8000_2000 0.00460087
is_0_0_0_19 0 ns_1_0_9000_2000 0.00156516
is_0_0_0_20 0 ns_1_0_0_4000 0.0170466
is_0_0_0_21 0 ns_1_0_1000_4000 0.00323744
is_0_0_0_22 0 ns_1_0_2000_4000 0.0109598
is_0_0_0_23 0 ns_1_0_3000_4000 0.00477218
is_0_0_0_24 0 ns_1_0_4000_4000 0.0125799
is_0_0_0_25 0 ns_1_0_5000_4000 0.00942521
is_0_0_0_26 0 ns_1_0_6000_4000 0.0171822
is_0_0_0_27 0 ns_1_0_7000_4000 0.000328954
is_0_0_0_28 0 ns_1_0_8000_4000 0.00801087
is_0_0_0_29 0 ns_1_0_9000_4000 0.00494056
is_0_0_0_30 0 ns_1_0_0_6000 0.00181904
is_0_0_0_31 0 ns_1_0_1000_6000 0.0174526
is_0_0_0_32 0 ns_1_0_2000_6000 0.00363741
is_0_0_0_33 0 ns_1_0_3000_6000 0.011314
is_0_0_0_34 0 ns_1_0_4000_6000 0.00823792
is_0_0_0_35 0 ns_1_0_5000_6000 0.0129241
is_0_0_0_36 0 ns_1_0_6000_6000 0.0206998
is_0_0_0_37 0 ns_1_0_7000_6000 0.00677212
is_0_0_0_38 0 ns_1_0_8000_6000 0.00388824
is_0_0_0_39 0 ns_1_0_9000_6000 0.00846527
is_0_0_0_40 0 ns_1_0_0_8000 0.0161734
is_0_0_0_41 0 ns_1_0_1000_8000 0.0023701
is_0_0_0_42 0 ns_1_0_2000_8000 0.0209098
is_0_0_0_43 0 ns_1_0_3000_8000 0.0146435
is_0_0_0_44 0 ns_1_0_4000_8000 0.0116158
is_0_0_0_45 0 ns_1_0_5000_8000 0.0194377
is_0_0_0_46 0 ns_1_0_6000_8000 0.00248695
is_0_0_0_47 0 ns_1_0_7000_8000 0.0210427
is_0_0_0_48 0 ns_1_0_8000_8000 0.00716118
is_0_0_0_49 0 ns_1_0_9000_8000 0.00405807

*-- intentional decap
cd_add_cap0 nd_1_0_1500_3000 nd0 'dcap_int_val134'
cd_add_cap1 nd_1_0_3500_3000 nd1 'dcap_int_val135'
cd_add_cap2 nd_1_0_5500_3000 nd2 'dcap_int_val136'
cd_add_cap3 nd_1_0_8500_3000 nd3 'dcap_int_val137'
cd_add_cap4 nd_1_0_1500_7000 nd4 'dcap_int_val138'
cd_add_cap5 nd_1_0_3500_7000 nd5 'dcap_int_val139'
cd_add_cap6 nd_1_0_5500_7000 nd6 'dcap_int_val140'
cd_add_cap7 nd_1_0_8500_7000 nd7 'dcap_int_val141'
rd_add0 nd0 0 'esr13'
rd_add1 nd1 0 'esr14'
rd_add2 nd2 0 'esr15'
rd_add3 nd3 0 'esr16'
rd_add4 nd4 0 'esr17'
rd_add5 nd5 0 'esr18'
rd_add6 nd6 0 'esr19'
rd_add7 nd7 0 'esr20'

.include 'moscap_esr.txt'
.include 'int_param_dcap.txt'


*-- p/g pad array
xs_pad_0_0 ns_pad_port_0_0 ns_pad_0_0 ubump_subckt
xd_pad_0_1 nd_pad_port_0_1 nd_pad_0_1 ubump_subckt
xs_pad_0_2 ns_pad_port_0_2 ns_pad_0_2 ubump_subckt
xd_pad_0_3 nd_pad_port_0_3 nd_pad_0_3 ubump_subckt
xd_pad_1_0 nd_pad_port_1_0 nd_pad_1_0 ubump_subckt
xs_pad_1_1 ns_pad_port_1_1 ns_pad_1_1 ubump_subckt
xd_pad_1_2 nd_pad_port_1_2 nd_pad_1_2 ubump_subckt
xs_pad_1_3 ns_pad_port_1_3 ns_pad_1_3 ubump_subckt
xs_pad_2_0 ns_pad_port_2_0 ns_pad_2_0 ubump_subckt
xd_pad_2_1 nd_pad_port_2_1 nd_pad_2_1 ubump_subckt
xs_pad_2_2 ns_pad_port_2_2 ns_pad_2_2 ubump_subckt
xd_pad_2_3 nd_pad_port_2_3 nd_pad_2_3 ubump_subckt
xd_pad_3_0 nd_pad_port_3_0 nd_pad_3_0 ubump_subckt
xs_pad_3_1 ns_pad_port_3_1 ns_pad_3_1 ubump_subckt
xd_pad_3_2 nd_pad_port_3_2 nd_pad_3_2 ubump_subckt
xs_pad_3_3 ns_pad_port_3_3 ns_pad_3_3 ubump_subckt
xs_pad_4_0 ns_pad_port_4_0 ns_pad_4_0 ubump_subckt
xd_pad_4_1 nd_pad_port_4_1 nd_pad_4_1 ubump_subckt
xs_pad_4_2 ns_pad_port_4_2 ns_pad_4_2 ubump_subckt
xd_pad_4_3 nd_pad_port_4_3 nd_pad_4_3 ubump_subckt
xd_pad_5_0 nd_pad_port_5_0 nd_pad_5_0 ubump_subckt
xs_pad_5_1 ns_pad_port_5_1 ns_pad_5_1 ubump_subckt
xd_pad_5_2 nd_pad_port_5_2 nd_pad_5_2 ubump_subckt
xs_pad_5_3 ns_pad_port_5_3 ns_pad_5_3 ubump_subckt
xs_pad_6_0 ns_pad_port_6_0 ns_pad_6_0 ubump_subckt
xd_pad_6_1 nd_pad_port_6_1 nd_pad_6_1 ubump_subckt
xs_pad_6_2 ns_pad_port_6_2 ns_pad_6_2 ubump_subckt
xd_pad_6_3 nd_pad_port_6_3 nd_pad_6_3 ubump_subckt
xd_pad_7_0 nd_pad_port_7_0 nd_pad_7_0 ubump_subckt
xs_pad_7_1 ns_pad_port_7_1 ns_pad_7_1 ubump_subckt
xd_pad_7_2 nd_pad_port_7_2 nd_pad_7_2 ubump_subckt
xs_pad_7_3 ns_pad_port_7_3 ns_pad_7_3 ubump_subckt
.include 'ubump.subckt'

*-- pad to via
rs_pad2via_0_0 ns_pad_0_0 ns_2_0_1000_2000  0.001
rd_pad2via_0_1 nd_pad_0_1 nd_2_0_1500_3000  0.001
rs_pad2via_0_2 ns_pad_0_2 ns_2_0_1000_6000  0.001
rd_pad2via_0_3 nd_pad_0_3 nd_2_0_1500_7000  0.001
rd_pad2via_1_0 nd_pad_1_0 nd_2_0_2500_1000  0.001
rs_pad2via_1_1 ns_pad_1_1 ns_2_0_2000_4000  0.001
rd_pad2via_1_2 nd_pad_1_2 nd_2_0_2500_5000  0.001
rs_pad2via_1_3 ns_pad_1_3 ns_2_0_2000_8000  0.001
rs_pad2via_2_0 ns_pad_2_0 ns_2_0_3000_2000  0.001
rd_pad2via_2_1 nd_pad_2_1 nd_2_0_3500_3000  0.001
rs_pad2via_2_2 ns_pad_2_2 ns_2_0_3000_6000  0.001
rd_pad2via_2_3 nd_pad_2_3 nd_2_0_3500_7000  0.001
rd_pad2via_3_0 nd_pad_3_0 nd_2_0_4500_1000  0.001
rs_pad2via_3_1 ns_pad_3_1 ns_2_0_4000_4000  0.001
rd_pad2via_3_2 nd_pad_3_2 nd_2_0_4500_5000  0.001
rs_pad2via_3_3 ns_pad_3_3 ns_2_0_4000_8000  0.001
rs_pad2via_4_0 ns_pad_4_0 ns_2_0_6000_2000  0.001
rd_pad2via_4_1 nd_pad_4_1 nd_2_0_5500_3000  0.001
rs_pad2via_4_2 ns_pad_4_2 ns_2_0_6000_6000  0.001
rd_pad2via_4_3 nd_pad_4_3 nd_2_0_5500_7000  0.001
rd_pad2via_5_0 nd_pad_5_0 nd_2_0_6500_1000  0.001
rs_pad2via_5_1 ns_pad_5_1 ns_2_0_7000_4000  0.001
rd_pad2via_5_2 nd_pad_5_2 nd_2_0_6500_5000  0.001
rs_pad2via_5_3 ns_pad_5_3 ns_2_0_7000_8000  0.001
rs_pad2via_6_0 ns_pad_6_0 ns_2_0_8000_2000  0.001
rd_pad2via_6_1 nd_pad_6_1 nd_2_0_7500_3000  0.001
rs_pad2via_6_2 ns_pad_6_2 ns_2_0_8000_6000  0.001
rd_pad2via_6_3 nd_pad_6_3 nd_2_0_7500_7000  0.001
rd_pad2via_7_0 nd_pad_7_0 nd_2_0_8500_1000  0.001
rs_pad2via_7_1 ns_pad_7_1 ns_2_0_9000_4000  0.001
rd_pad2via_7_2 nd_pad_7_2 nd_2_0_8500_5000  0.001
rs_pad2via_7_3 ns_pad_7_3 ns_2_0_9000_8000  0.001

.ends chiplet2
